US07662811B2
Step 3: Preparation of N-[2-(4-chloromethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide:
To a suspension of N-[2-(4-hydroxymethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide (0.376 g, 0.85 mmol) in 1,4-dioxane (10 mL) was added SOCl2 (Aldrich, 0.25 mL, 3.4 mmol) at rt. The reaction mixture was concentrated in vacuo after 30 min. The crude product was used in next step without purification. MS (ESI): 464 (M+H)+.

reactant | N-[2-(4-hydroxymethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide | 0.85 mmol, 0.376 g | OCC1=CC=C(C=C1)CCNC(CC1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C22H25N3O5S
reactant | SOCl2 | 3.4 mmol, 0.25 mL | O=S(Cl)Cl | Cl2OS
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-[2-(4-chloromethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide | ClCC1=CC=C(C=C1)CCNC(CC1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C22H24ClN3O4S
